US07956064B2
In a microwave vessel, methyl 2-bromo-3-thiophene carboxylate (1.0 eq, 64 mg, 0.29 mmol), 2-amino phenyl boronic acid (1.2 eq, 48 mg, 0.35 mmol), sodium acetate (3.0 eq, 71 mg, 0.86 mmol) and PdCl2(dppf) (0.1 eq, 15 mg, 0.028 mmol) were mixed together in anhydrous DMF (0.2 ml). The mixture was heated in a microwave oven at 120° C. for 5 nm. The material was purified by preparative HPLC. Acetonitrile was evaporated, and the compound was extracted with CH2Cl2 (3×). The combined extracts were washed with water, dried over Na2SO4, and the solvents removed in vacuo. Recrystallization in EtOH provided thieno[3,2-c]quinolin-4(5H)-one as a tan crystalline solid (7 mg, 12% yield). LCMS (ES): 95% pure, m/z 202 [M+1]+; 1H NMR (CDCl3/CD3OD, 9:1, 400 MHz) δ 7.28 (m, 1H), 7.33 (m, 1H), 7.43-7.50 (m, 2H), 7.74 (d, J=4.4, 1H), 7.82 (d, J=7.6, 1H) ppm

reactant | methyl 2-bromo-3-thiophene carboxylate | 0.29 mmol, 64 mg, 1.0 eq | BrC=1SC=CC1C(=O)OC | C6H5BrO2S
reactant | 2-amino phenyl boronic acid | 0.35 mmol, 48 mg, 1.2 eq | NC1=C(C=CC=C1)B(O)O | C6H8BNO2
reactant | sodium acetate | 0.86 mmol, 71 mg, 3.0 eq | C(C)(=O)[O-].[Na+]
solvent | DMF | 0.2 ml | CN(C)C=O | C3H7NO
catalyst | PdCl2(dppf) | 0.028 mmol, 15 mg, 0.1 eq | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | thieno[3,2-c]quinolin-4(5H)-one | 7 mg, 12% yield | S1C=CC=2C(NC=3C=CC=CC3C21)=O | C11H7NOS
